US06656938B2
2-(2-Methoxyethyl)-1-{2-[2-(methylamino)ethoxy]ethyl}-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine (750 mg, 2.16 mmol) was dissolved in 30 mL of anhydrous CH2Cl2 and treated with phenyl isocyanate (239 μL, 2.20 mmol). After stirring under N2 overnight, the reaction mixture was concentrated under reduced pressure. Crystallization from EtOAc and CH2Cl2 gave 170 mg of N-(2-{2-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)-N-methyl-N′-phenylurea as fluffy white crystals. m.p. 167.7-170.0° C.;

reactant | 2-(2-Methoxyethyl)-1-{2-[2-(methylamino)ethoxy]ethyl}-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 2.16 mmol, 750 mg | COCCC=1N(C2=C(C(=NC=3CCCCC23)N)N1)CCOCCNC | C18H29N5O2
reactant | phenyl isocyanate | 2.20 mmol, 239 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(2-{2-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)-N-methyl-N′-phenylurea | 170 mg | NC1=NC=2CCCCC2C2=C1N=C(N2CCOCCN(C(=O)NC2=CC=CC=C2)C)CCOC | C25H34N6O3
